US04492792
In a mixed solvent of 100 ml of toluene and 50 ml of methanol was dissolved 7.85 g (50 mmoles) of 2-methoxymethylene-3,3-dimethoxypropanenitrile. To the resulting solution was added 9.65 g (50 mmoles) of a 28 wt. % solution of sodium methylate in methanol and the mixture was stirred at room temperature for one and a half hours. Subsequently, the reaction mixture was concentrated under reduced pressure to remove the methanol by distillation. To the resulting residue was added 25 ml of water and the toluene layer was separated followed by drying over anhydrous sodium sulfate. The thus dried toluene solution was distilled to obtain 8.50 g (45 mmoles) of 2-dimethoxymethyl-3,3-dimethoxypropanenitrile as a colorless transparent oil boiling at 90°-93° C./2 mmHg.

reactant | 2-methoxymethylene-3,3-dimethoxypropanenitrile | 50 mmoles, 7.85 g | COC=C(C#N)C(OC)OC | C7H11NO3
reactant | sodium methylate | C[O-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 50 ml | CO | CH4O
product | 2-dimethoxymethyl-3,3-dimethoxypropanenitrile | 45 mmoles, 8.50 g | COC(C(C#N)C(OC)OC)OC | C8H15NO4
